US06951879B2
In analogy to example 17.1, Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and 2-Ethylaminoethanol were converted to yield 2-(Ethyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amino)-ethanol as light yellow oil, MS: 433 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C)(F)F | C20H16F3NO3S2
reactant | 2-Ethylaminoethanol | C(C)NCCO | C4H11NO
product | 2-(Ethyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amino)-ethanol | C(C)N(CCO)CCCC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H23F3N2OS
